US04344946
2,6-Bis-(diethylamino-acetylamino)-4-methyl-benzo[1,2-d:5,4-d']bisthiazole by method A
20 gm of diethylamine were added to 11.5 gm of 2,6-bis-(chloroacetyl-amino)-4-methyl-benzo[1,2-d:5,4-d']bisthiazole in 80 ml of dioxane and the mixture was boiled for 3 hours. Then it was evaporated to dryness in vacuo, and the residue (12 gm) was chromatographed on a dry 300 gm-silicagel column with benzene/chloroform (1:1) as the mobile phase. The title compound was obtained first; 9.0 gm (66% of theory), melting point 191°-192° C., were obtained after recrystallization from alcohol.

reactant | diethylamine | 20 gm | C(C)NCC | C4H11N
reactant | 2,6-bis-(chloroacetyl-amino)-4-methyl-benzo[1,2-d:5,4-d']bisthiazole | 11.5 gm | ClCC(=O)NC=1SC=2C(N1)=C(C=1N=C(SC1C2)NC(CCl)=O)C | C13H10Cl2N4O2S2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2,6-Bis-(diethylamino-acetylamino)-4-methyl-benzo[1,2-d:5,4-d']bisthiazole | C(C)N(CC)N(C=1SC=2C(N1)=C(C=1N=C(SC1C2)N(C(C)=O)N(CC)CC)C)C(C)=O | C21H30N6O2S2
